US08877782B2
(4-Hydroxy-piperidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (155 mg, 0.50 mmol) was converted, using 4-hydroxypiperidine instead of methylamine, to the title compound (145 mg, 73%) which was obtained as a white solid. MS: m/e=394.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.50 mmol, 155 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | (4-Hydroxy-piperidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 145 mg, 73% | OC1CCN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C22H23N3O4
